US06297256B1
A mixture of 7-chloro-5-(4-fluorophenyl)thieno[3,2-b]pyridine (146 mg, 0.53 mmol), 4-(1H-imidazol-2-yl)piperidine. hydrochloride (U.S. Pat. No. 4,431,653) (100 mg, 0.53 mmole) and sodium acetate (50 mg) in ethylene glycol (10 mL) is stirred and heated at 160° C. for about 16 hours. It is then cooled, diluted with ethylacetate (15 mL), and washed with water (3×15 mL). The organic layer is dried over sodium sulfate, filtered, and concentrated. The residue is purified by preparative thin layer chromatography to give 5-(4-fluorophenyl)-7-(4-imidazol-2-ylpiperidyl)thiopheno[3,2-b]pyridine (36 mg, 18% yield) as a white solid, m.p. 95° C. (compound 1).

reactant | 7-chloro-5-(4-fluorophenyl)thieno[3,2-b]pyridine | 0.53 mmol, 146 mg | ClC1=C2C(=NC(=C1)C1=CC=C(C=C1)F)C=CS2 | C13H7ClFNS
reactant | 4-(1H-imidazol-2-yl)piperidine. hydrochloride | Cl.N1C(=NC=C1)C1CCNCC1
reactant | sodium acetate | 50 mg | C(C)(=O)[O-].[Na+]
solvent | ethylene glycol | 10 mL | C(CO)O | C2H6O2
solvent | ethylacetate | 15 mL | C(C)OC(C)=O | C4H8O2
product | 5-(4-fluorophenyl)-7-(4-imidazol-2-ylpiperidyl)thiopheno[3,2-b]pyridine | 36 mg, 18% yield | FC1=CC=C(C=C1)C1=CC(=C2C(=N1)C=CS2)N2CCC(CC2)C=2NC=CN2 | C21H19FN4S
